US05468748
9-(4-Methyl-1-piperazinyl)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione
9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione (1.50 g, 6.39 mmol) was suspended in 15 ml of dry tetrahydrofuran, while cooling in an ice bath. N-Methylpiperazine (1.42 ml, 12.78 mmol) dissolved in 3 ml of dry tetrahydrofuran was added over 20 min, and the ice bath was removed and stirring was continued for 20 hours at room temperature. The precipitate was filtered off and washed with tetrahydrofuran and dried to give 2.42 g of a remanence, which was dissolved in 100 ml of boiling ethanol, and treated with 300 mg of activated carbon. The mixture was filtered and concentrated to 10 ml. The precipitate was filtered off, washed with ethanol and dried to give 0.65 g of the crude product. From the filtrate another crop of 0.57 g could be isolated. Recrystallization from 6M HCl afforded 0.73 g (30%) of the title compound as a dihydrochloride. M.p. 263°-265° C. 1H-NMR (DMSO-d6, δ): 2.6 (m, 1H), 2.73 (s, 3H), 2.78-3.52 (m, 7H), 4.84 (s, 1H), 5.9-7.0 (broad, 2H), 7.2 (t, 1H), 7.35 (t, 1H), 7.48 (d, 1H), 7.58 (d, 1H), 10.92 (s, 1H), 11.76 (s, 1H), 12.34 (s, 1H).

reactant | 9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione | 6.39 mmol, 1.50 g | ClC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H7ClN2O2
reactant | N-Methylpiperazine | 12.78 mmol, 1.42 ml | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 9-(4-Methyl-1-piperazinyl)-9H-indeno[1,2-b]pyrazine-2,3(1H, 4H)-dione | 0.73 g, 30% | CN1CCN(CC1)C1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C16H18N4O2
